US05128355
Part B: Preparation of 4'-Methyl-2-(2-nitroethen-1-yl)biphenyl
4'-Methylbiphenyl-2-carboxaldehyde (13.21 g, δ.3 mmol (1.0 eq, nitromethane (4.74 mL, 87.5 mmol, 1.3 eq), ammonium acetate (2.07 g, 2.60 mmol, 0.4 eq) and glacial acetic acid (30 mL) were mixed and refluxed for 2 days, at which time more nitromethane (4.74 mL) and ammonium acetate (2.07 g) were added and the reaction was refluxed for an additional 5 hours. The reaction mixture was poured into ice water (300 mL) and extracted with ethyl acetate (300 mL). The ethyl acetate layer was washed with water (3×200 mL), the organic layer dried (MgSO4), the solvent removed in vacuo and the residue chromatographed in 1:1 hexane/toluene to yield 11.22 g of a light yellow oil which crystallized. The product was recrystallized from methylcyclohexane to yield 8.47 g of yellow crystals; m.p. 64.0°-65.0°. NMR (200 MHz, CDCl3) δ 8.04 (d, 1H, J=13Hz); 7.69 (d, 1H, J=9Hz) 7.59-7.37 (m 4H); 7.50 (d, 1H, J=13Hz); 7.27 (d, 2H, J=7Hz); 7.19 (d, 2H, J=7Hz); 2.41 (s, 3H). Anal. Calcd. for C15H13NO2 : C, 75.30; H, 5.48; N, 5.85. Found: C, 75.32; H, 5.56; N, 5.58.

reactant | 4'-Methylbiphenyl-2-carboxaldehyde | CC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C14H12O
reactant | ammonium acetate | 2.60 mmol, 2.07 g, 0.4 eq | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 2.07 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 4.74 mL | [N+](=O)([O-])C | CH3NO2
reactant | nitromethane | 87.5 mmol, 4.74 mL, 1.3 eq | [N+](=O)([O-])C | CH3NO2
product | 4'-Methyl-2-(2-nitroethen-1-yl)biphenyl | 11.22 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=C[N+](=O)[O-] | C15H13NO2
